US05391778
17β-Acetoxy-2-iodo-androst-4-en-3-one
2.79 g (11 mmol) of iodine is added to 3.28 g (10 mmol) of 17-acetoxy-androst-4-en-3-one and 0.875 g (11 mmol) of CuO in 30 ml of glacial acetic acid with stirring at room temperature. The reaction solution is stirred under nitrogen atmosphere for 24 hours at 60° C. Under reduced pressure, acetic acid is distilled off, and the residue is taken up in 50 ml of water. The water phase is extracted 3 times with 50 ml of ethyl acetate each, the ethyl acetate phases are washed with sodium thiosulfate solution and dried on sodium sulfate. Concentration by evaporation of the solution yields 4.5 g of crude product. After recrystallization from ethyl acetate, 2.85 g of 17β-acetoxy-2-iodo-androst-4-en-3-one (65% of theory) of melting point 92° C. is obtained.

reactant | iodine | 11 mmol, 2.79 g | II | I2
reactant | 17-acetoxy-androst-4-en-3-one | 10 mmol, 3.28 g | C(C)(=O)OC1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C21H30O3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 17β-Acetoxy-2-iodo-androst-4-en-3-one | 4.5 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C(C[C@]3(C)[C@H]1CC2)I)=O | C21H29IO3
